US07875732B2
Preparation of N-methoxymethyl-N-methylpyrrolidinium hexafluorophosphate
In 120 g of water was dissolved 20.0 g of N-methoxymethyl-N-methylpyrrolidinium chloride and thereto was added 20.3 g of sodium hexafluorophosphate to obtain a white solid. The mixture was stirred for 30 minutes, and dichloromethane was added to the mixture for extraction. The extract was washed with 20 g of water 15 times, thereafter dried, giving 23.3 g of the desired product in the form of a white solid.

reactant | N-methoxymethyl-N-methylpyrrolidinium chloride | 20.0 g | [Cl-].COC[N+]1(CCCC1)C
reactant | sodium hexafluorophosphate | 20.3 g | F[P-](F)(F)(F)(F)F.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | 120 g | O | H2O
product | N-methoxymethyl-N-methylpyrrolidinium hexafluorophosphate | 23.3 g | F[P-](F)(F)(F)(F)F.COC[N+]1(CCCC1)C | InChI=1S/C7H16NO.F6P/c1-8(7-9-2)5-3-4-6-8;1-7(2,3,4,5)6/h3-7H2,1-2H3;/q+1;-1
